US07786132B2
A stirred solution of benzo[b]thiophen-5-amine (2.48 g, 17.0 mmol), hexane-2,5-dione (1.95 mL, 17.0 mmol) and glacial acetic acid (0.2 mL) in benzene (35 mL) was heated to reflux under a Dean-Stark head. After 14 h the reaction was cooled to r.t., diluted with diethyl ether (40 mL), and successively washed with aqueous 2 N hydrochloric acid (30 mL), brine (30 mL), a saturated aqueous solution of sodium hydrogen carbonate (30 mL) and finally brine (30 mL). The organic layer was separated, dried over magnesium sulfate, filtered and the solvent evaporated in vacuo to yield 1-(benzo[b]thiophen-5-yl)-2,5-dimethyl-1H-pyrrole (3.67 g, 97%) as a light orange crystalline solid. 1H NMR δ (CDCl3, 400 MHz) 2.04 (s, 6H), 5.93 (s, 2H), 7.19 (dd, J=8, 2 Hz, 1H), 7.37 (d, J=5 Hz, 1H), 7.55 (d, J=5 Hz, 1H), 7.66 (d, J=2 Hz, 1H), 7.94 (d, J=9 Hz, 1H).

reactant | benzo[b]thiophen-5-amine | 17.0 mmol, 2.48 g | S1C2=C(C=C1)C=C(C=C2)N | C8H7NS
reactant | hexane-2,5-dione | 17.0 mmol, 1.95 mL | CC(CCC(C)=O)=O | C6H10O2
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
solvent | benzene | 35 mL | C1=CC=CC=C1 | C6H6
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | 1-(benzo[b]thiophen-5-yl)-2,5-dimethyl-1H-pyrrole | 3.67 g, 97% | S1C2=C(C=C1)C=C(C=C2)N2C(=CC=C2C)C | C14H13NS
